US07915443B2
N-[(4-{[3-(dimethylamino)propyl]amino}phenyl)(methyl)oxido--sulfanylidene]-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinamide
N-[(4-{amino}phenyl)(methyl)oxido--sulfanylidene]-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinamide (0.085 g, 0.168 mmol) was dissolved in dioxane (1.7 mL) then treated with (3-Chloro-propyl)-diethyl-amine (0.047 g, 0.252 mmol) and TEA (0.070 mL, 0.504 mmol). The reaction mixture was then heated to 100° C. for 48 h then cooled to room temperature. The cooled mixture was dissolved in EtOAc (5 mL) and then extracted with water (3×5 mL) and with brine (5 mL). The organic layer was dried over anhydrous Na2SO4(s), filtered and concentrated in vacuo. The crude mixture was purified via column chromatography (gradient eluant mixture of MeOH in EtOAc: 0% to 20% MeOH) to give the title compound (4 mg, 3.5%).

reactant | N-[(4-{amino}phenyl)(methyl)oxido--sulfanylidene]-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinamide | 0.168 mmol, 0.085 g | NC1=CC=C(C=C1)S(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C1=CC(=NN1C)C)=O)(=O)C | C27H24N6O3S
reactant | (3-Chloro-propyl)-diethyl-amine | 0.252 mmol, 0.047 g | ClCCCN(CC)CC | C7H16ClN
solvent | dioxane | 1.7 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | N-[(4-{[3-(dimethylamino)propyl]amino}phenyl)(methyl)oxido--sulfanylidene]-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinamide | 4 mg, 3.5% | CN(CCCNC1=CC=C(C=C1)S(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C1=CC(=NN1C)C)=O)(=O)C)C | C32H35N7O3S
